US09216965B2
A mixture of 6-bromo-4-chloro-7-fluoroquinoline/6-bromo-4-chloro-5-fluoroquinoline (20.35 g, 78 mmol), 2-methylpropane-2-thiol (9.68 ml, 86 mmol), sodium Na2CO3 (24.84 g, 234 mmol), Pd2dba3 (7.15 g, 7.81 mmol), and Xantphos (4.52 g, 7.81 mmol) in 1,4-Dioxane (300 ml) was stirred under nitrogen at 95° C. overnight. Cooled to RT and concentrated. Dissolved resulting material into DCM/water, and separated the layers. Extracted aqueous layer with DCM. The combined organic layers were concentrated. The crude sample was purified via Isco normal phase chromatography (330 g column, 0% -15%, E/H) to yield 6-(tert-butylthio)-4-chloro-7-fluoroquinoline/6-(tert-butylthio)-4-chloro-5-fluoroquinoline (˜20.5 g) as a yellow solid that still contained dba. MS: m/z: 270.0 [M+H]+. This sample was a mixture of regioisomers that was used as is for next step.

reactant | 6-bromo-4-chloro-7-fluoroquinoline 6-bromo-4-chloro-5-fluoroquinoline | 78 mmol, 20.35 g | BrC=1C=C2C(=CC=NC2=CC1F)Cl.BrC=1C(=C2C(=CC=NC2=CC1)Cl)F | 2C9H4BrClFN
reactant | 2-methylpropane-2-thiol | 86 mmol, 9.68 ml | CC(C)(C)S | C4H10S
reactant | sodium Na2CO3 | 234 mmol, 24.84 g | [Na].C(=O)([O-])[O-].[Na+].[Na+]
reactant | Xantphos | 7.81 mmol, 4.52 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | 1,4-Dioxane | 300 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 7.81 mmol, 7.15 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(tert-butylthio)-4-chloro-7-fluoroquinoline 6-(tert-butylthio)-4-chloro-5-fluoroquinoline | ˜20.5 g | C(C)(C)(C)SC=1C=C2C(=CC=NC2=CC1F)Cl.C(C)(C)(C)SC=1C(=C2C(=CC=NC2=CC1)Cl)F | 2C13H13ClFNS
